US08685969B2
1. 5-Bromo-3-(2-hydroxypropan-2-yl)-9H-pyrido[3,4-b]indole-8-carboxamide
A solution of ethyl 5-bromo-8-carbamoyl-9H-pyrido[3,4-b]indole-3-carboxylate (0.4 g, 1.104 mmol) in THF (31.6 mL) was cooled in a salt-ice bath slowly treated with methylithium (1.6 M in ether, 3.80 mL, 6.07 mmol). The solution was stirred at −5° C. for 1.5 h, then was treated with ice and 1 M aqueous HCl (7 mL). The mixture was made basic with NaHCO3 (aq) and extracted with chloroform-isopropanol (3:1). The organic phase was washed with brine, dried and concentrated. The residue was subjected to column chromatography on silica gel (40 g), eluting with Methanol-CH2Cl2 (gradient from 2:98 to 10:90) to provide the desired product as a yellow solid (128 mg, 33% yield). LCMS (M+H)+ m/z 347.9, 349.9.

reactant | ethyl 5-bromo-8-carbamoyl-9H-pyrido[3,4-b]indole-3-carboxylate | 1.104 mmol, 0.4 g | BrC1=C2C3=C(NC2=C(C=C1)C(N)=O)C=NC(=C3)C(=O)OCC | C15H12BrN3O3
reactant | HCl | 1 M, 7 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | THF | 31.6 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 5-Bromo-3-(2-hydroxypropan-2-yl)-9H-pyrido[3,4-b]indole-8-carboxamide | 128 mg, 33% yield | BrC1=C2C3=C(NC2=C(C=C1)C(=O)N)C=NC(=C3)C(C)(C)O | C15H14BrN3O2
